US07390430B2
Preparation of 1,3-bis[(4-ethyl-4,5,-dihydro-2-oxazolyl)methyl]benzene
In a one liter four-necked round-bottom flask equipped with a condenser, N2 inlet/outlet, magnetic stirrer, and thermometer, was charged with 52.65 g of 1,3-phenylene-diacetonitrile (0.337 mol, Aldrich), 78.13 g of 2-amino-1-butanol (0.876 mol, Aldrich), and 3.38 g of cadmium nitrate tetrahydrate (0.011 mol, Aldrich) in 300 mL of o-xylene. The mixture was heated to 130° C. and the reaction was run for 72 hours. The cooled mixture was washed with de-ionized water (2×200 mL). The organic layer was dried over sodium sulfate and acidic alumina gel. After removal of solvent in vacuo, 67.21 g of an amber liquid resin was obtained in a yield of 67%. The viscosity of this resin at room temperature is 250 mPa.·. 1H NMR (CDCl3, 400 MHz): δ 7.11-7.19 (m, 4H), 4.20 (t, 2H), 3.91-3.97 (m, 2H), 3.77 (t, 2H), 3.52 (s, 4H), 1.53-1.61 (m, 2H), 1.40-1.47 (m, 2H), 0.86 (t, 6H).

reactant | 1,3-phenylene-diacetonitrile | 0.337 mol, 52.65 g | C1(=CC(=CC=C1)CC#N)CC#N | C10H8N2
reactant | 2-amino-1-butanol | 0.876 mol, 78.13 g | NC(CO)CC | C4H11NO
solvent | o-xylene | 300 mL | CC=1C=CC=CC1C | C8H10
catalyst | cadmium nitrate tetrahydrate | 0.011 mol, 3.38 g | O.O.O.O.[N+](=O)([O-])[O-].[Cd+2].[N+](=O)([O-])[O-]
product | 1,3-bis[(4-ethyl-4,5,-dihydro-2-oxazolyl)methyl]benzene | 67.21 g, yield of 67% | C(C)C1N=C(OC1)CC1=CC(=CC=C1)CC=1OCC(N1)CC | C18H24N2O2
